US04946862
231 g of triethylamine are added to a solution of 96.5 g of 2-(1-formylaminopropyl) thiophene in 500 ml of methylene chloride and the mixture is cooled at below -30° C. 105 g of phosphorus oxychloride are added dropwise to the mixture at below -30° to -20° C. and and the mixture is stirred at the same temperature for 1 hour. After the reaction, the mixture is poured into 1 litter of an aqueous 10% potassium carbonate solution. The aqueous mixture is stirred at room temperature for 1 hour and the methylene chloride layer is separated therefrom. Said methylene chloride layer is washed with water, dried and evaporated to remove solvent. The residue is distilled under reduced pressure to give 74.5 g of 1-(2-thienyl)propyl isocyanide as a colorless oil.

reactant | triethylamine | 231 g | C(C)N(CC)CC | C6H15N
reactant | 2-(1-formylaminopropyl) thiophene | 96.5 g | C(=O)NC(CC)C=1SC=CC1 | C8H11NOS
reactant | phosphorus oxychloride | 105 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-thienyl)propyl isocyanide | 74.5 g | S1C(=CC=C1)C(CC)[N+]#[C-] | C8H9NS
